US04822805
A solution of 2-[4-(N-acetyl-N-methylamino)-5-chloro-2-methoxyphenyl]-4-methyl-5-(3-pyridyl)imidazole (0.70 g) and conc. hydrochloric acid (7 ml) in a mixture of water (7 ml) and ethanol (7 ml) was refluxed for 7 hours with stirring. After allowed to cool to ambient temperature, the mixture was evaporated under reduced pressure. The resulting oil was poured into water (20 ml). After neutrallized with aqueous potassium bicarbonate the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was distilled off to give 2-(5-chloro-4-methylamino-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.58 g).

reactant | 2-[4-(N-acetyl-N-methylamino)-5-chloro-2-methoxyphenyl]-4-methyl-5-(3-pyridyl)imidazole | 0.70 g | C(C)(=O)N(C)C1=CC(=C(C=C1Cl)C=1NC(=C(N1)C)C=1C=NC=CC1)OC | C19H19ClN4O2
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | water | 7 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-(5-chloro-4-methylamino-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.58 g | ClC=1C(=CC(=C(C1)C=1NC(=C(N1)C)C=1C=NC=CC1)OC)NC | C17H17ClN4O
